Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Patient is an ___ year old female with PMH of moderate-to-severe 
COPD (on home 2L O2, no intubations/ICU stays) who presents from 
home with shortness of breath for 4 days. Patient was last in 
her usual state of health until 3 days prior to presentation 
when she developed insidious onset shortness of breath with 
cough. She had no fevers or chills and noted increased chest 
congestion but is unable to expectorate. She presented to her 
PCP's office 2 days PTA when she was prescribed prednisone and a 
z-pak. Then on the day prior to this admission she presented to 
the ___ ED for persistant SOB nad weakness. She was unable to 
eat large quantities because of the shortness of breath. In the 
ED she was treated with albuterol nebs and was discharged after 
performing well on a walk test around the ED. Then, on the day 
of presentation, patient's shortness of breath again became 
suddenly worse. She was speaking in short sentences and 
activities such as walking across the room or going to the 
bathroom caused her severe dyspnea. She called the ambulance and 
was taken back to the ED.
.  
In the ED, initial vital signs were T95.6, HR98, BP175/96, RR28, 
O2sat99% 2L nasal prongs. Exam was significant for initially 
speaking in 2 word sentences, and poor air entry b/l with no 
wheezes/crackles. This improved with nebulizers and she was able 
to speak in full sentences. ECG showed sinus tachycardia with no 
acute ST-t wave changes. Troponin was <0.01. WBC count was 
normal, and patient received prednisone 60mg, ipratropium and 
albuterol nebs, and azithromycin 250mg. She had an episode of 
desaturation to 86% on nebs and was placed on NIPPV (FiO2: 100 
PEEP: 5 PS: 10) with improvement of sats up to 96%. Unable to 
tolerate further bipap she was placed on 5LNC with O2sats 96%. 
She received 1mg of IV ativan for anxiety. Vital signs prior to 
transfer were T97.9 HR103 BP177/87 RR28 O2sat95% 5LNC.  
. 
On arrival to the MICU, intial VS were T98.1, HR99, BP152/90, 
RR29, O2sat94% 5LNC. She reports improvement in her SOB. She 
reports being hungry. She endorses a slight headache. She 
reports having some loose stool that corresponds to when she 
started azithromycin as an outpatient.  
 
Past Medical History:
- Asthma
- COPD
- GERD
- Anxiety
- Osteopenia 
- S/p cataract surgery
- White coat HTN (BPs at home 120s-130s/70s-80s) 
 
Social History:
___
Family History:
Mother had angina. No other CAD, no cancers. Brother has 
___.  

 
Physical Exam:
ADMISSION EXAM: 
Vitals: T 98.1, HR 99, BP 152/90, RR 29, O2sat 94% 5LNC  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Poor air movement bilaterally, diffuse rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
GU: No foley  
Ext: Warm, well perfused, no edema or cyanosis  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred  
.
DISCHARGE EXAM: 
VS: Tm 98.5, BP 164/82, P 70, R 18, 97-99% on 1L NC    
GENERAL: NAD, comfortable, speaking in full sentences  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK: Supple, no thyromegaly, no JVD
HEART: RRR, nl S1-S2, no MRG
LUNGS: Ronchorus BS throughout with diffuse expiratory wheezing 
though improved 
ABDOMEN: NABS, soft/NT/ND, no masses or HSM, no rebound/guarding
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses (radials, DPs)  

SKIN: Scattered ecchymoses
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, strength and 
sensation grossly intact 
 
Pertinent Results:
ADMISSION LABS:
___ 06:12PM BLOOD WBC-8.8 RBC-4.78 Hgb-14.1 Hct-42.5 MCV-89 
MCH-29.6 MCHC-33.3 RDW-12.8 Plt ___
___ 06:12PM BLOOD Neuts-91.7* Lymphs-6.7* Monos-1.4* Eos-0 
Baso-0.2
___ 06:12PM BLOOD Glucose-169* UreaN-18 Creat-0.9 Na-136 
K-4.5 Cl-101 HCO3-23 AnGap-17
___ 04:06AM BLOOD Calcium-9.3 Phos-3.9 Mg-2.3
___ 09:55AM BLOOD cTropnT-<0.01
___ 04:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:00PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-150 Ketone-10 Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 04:00PM URINE RBC-1 WBC-2 Bacteri-NONE Yeast-NONE Epi-1
.
DISCHARGE LABS:
___ 08:00AM BLOOD WBC-11.9* RBC-4.66 Hgb-13.8 Hct-42.4 
MCV-91 MCH-29.7 MCHC-32.6 RDW-12.6 Plt ___
___ 08:00AM BLOOD Glucose-130* UreaN-27* Creat-0.9 Na-142 
K-4.0 Cl-99 HCO3-34* AnGap-13
___ 08:00AM BLOOD Calcium-9.5 Phos-3.6 Mg-2.0
.
MICRO:
___ Blood cultures: no growth to date
___ Urine culture: pending  
.
IMAGING:
___ PA/LAT/OBLIQUE CXR: The heart is normal in size. The 
mediastinal and hilar contours appear unchanged. The aortic arch 
is calcified. Central pulmonary arteries are again prominent. 
The chest is hyperinflated. Bronchovascular markings are 
attenuated and irregular, particularly in the upper lungs, 
suggesting obstructive pulmonary disease. A hiatal hernia is 
probably small-to-moderate in size. No focal opacity is 
identified. There is no pleural effusion or pneumothorax. Mild 
degenerative changes are similar along the lower thoracic spine.
IMPRESSION: Findings suggesting chronic obstructive pulmonary 
disease. No evidence of pneumonia. Small-to-moderate hiatal 
hernia. 
 
Brief Hospital Course:
___ year old female with PMH of moderate-to-severe COPD (FEV1 37% 
of predicted ___ on home O2 for exertion, who presented with 
SOB secondary to a COPD exacerbation. 
. 
ACTIVE ISSUES: 
# COPD exacerbation: Patient has moderate-severe COPD on 2LNC 
home oxygen only with exertion, otherwise on room air. She 
presented with 3 days of increasing shortness of breath 
improving with bronchodilators and at one point requiring NIPPV 
in the ED. She had a significant component of anxiety while in 
the ED, exacerbating the tachypnea in addition to her COPD 
flare, which has been the case in prior exacerbations as well 
per discussion with her PCP. Overnight in the ICU she was easily 
weaned to 91% oxygen on room air and was able to be transferred 
to the medical floor. Although there was no evidence of 
pneumonia on her CXR, she was continued on the azithromycin 
which had been started by her PCP and completed ___ 5-day course. 
She was also started on prednisone 60mg daily with plan for a 
slow taper. Her Advair, Spiriva, and albuterol were continued 
and she was treated with lorazepam prn for anxiety with good 
effect. Upon discharge she was breathing comfortably with O2 
sats in the mid-90s on 1L NC and was ambulating. She is 
currently on prednisone 50mg daily with plan to taper as 
follows: 40mg (___), 30mg (___), 20mg (___), 
10mg (___), and then stop. She will have outpatient 
pulmonary rehab and has f/u appointments scheduled with her PCP 
and pulmonologist.   
.
# Hypertension: Patient's blood pressure was persistent elevated 
in the 150s-160s with several readings in the 170s. She denies a 
history of HTN and after discussing this with her PCP ___. 
___ may be a component of white coat hypertension 
and anxiety. We elected not to treat it at this time. She has a 
f/u appointment with Dr. ___ at which time he will recheck 
her BP and decide whether to start an antihypertensive agent.  
.
# UTI: Patient developed a mild leukocytosis (WBC 11.9) on the 
day of discharge. She has been afebrile but UA revealed a UTI. 
She states that she has a history of recurrent UTIs and has a 
prescription for ciprofloxacin 250mg at home which is not 
expired. She wishes to take her own medication at home and 
states that she will take 1 pill BID for the next 3 days. She 
understands warning signs that should prompt her to seek medical 
attention such as worsening abdominal pain, flank pain, or 
fevers. The urine culture is pending at the time of discharge. I 
will follow this up and contact the patient and her PCP should 
the organism return resistant to ciprofloxacin.   
.
INACTIVE ISSUES: 
# Osteopenia: Continued Vitamin D supplementation.
.
TRANSITIONAL ISSUES: 
# Opacity on CXR: Patient had a small opacity in the 
costophrenic recess on the lateral view CXR. Unclear etiology 
but stable since ___. Radiology recommends non-emergent CT scan 
to evaluate. The patient is aware of this. 
 
Medications on Admission:
1. Aspirin 81 mg PO 4X/WEEK (___) 
Pt states she only takes it 4x/wk because of increased bruising 
with daily dosing 
2. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Vitamin D 800 UNIT PO DAILY 
5. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 
6. PredniSONE 40 mg PO DAILY Duration: 10 Days 
started ___ by PCP 
7. Azithromycin 250 mg PO Q24H Duration: 4 Days 
Day 1 of z-pack was ___ from PCP 

 
___:
1. Aspirin 81 mg PO 4X/WEEK (___) 
Pt states she only takes it 4x/wk because of increased bruising 
with daily dosing 
2. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Vitamin D 800 UNIT PO DAILY 
5. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 
6. Pulmonary rehab
Patient requires outpatient pulmonary rehab.
7. PredniSONE 40 mg PO daily Duration: 2 Days Start: In am 
RX *prednisone 10 mg see below tablet(s) by mouth daily Disp 
#*20 Tablet Refills:*0
8. PredniSONE 30 mg PO daily Duration: 2 Days Start: After 40 mg 
tapered dose. 
9. PredniSONE 20 mg PO daily Duration: 2  Days Start: After 30 
mg tapered dose. 
10. PredniSONE 10 mg PO daily Duration: 2  Days Start: After 20 
mg tapered dose. 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
COPD 
UTI 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
.
It was a pleasure caring for you at ___ 
___. You were admitted with shortness of breath due 
to an exacerbation of your COPD. We treated you with 
azithromycin and prednisone and your breathing improved. You 
should continue to use the oxygen at home while your breathing 
continues to get better. We have arranged for you to attend 
outpatient pulmonary rehab. 
.
You were found to have a urinary tract infection on the day of 
discharge. You have a history of frequent UTIs and have 
ciprofloxacin 250mg at home which you would prefer to take. When 
you get home please take this medication twice daily for the 
next 3 days as we discussed.  
 
Followup Instructions:
___